US05663200
62b) 5(S)-[1(S)-(Boc-Amino)-2-[p-(2-methoxyethoxy)phenyl]ethyl]dihydrofuran-2-(3H)-one
3.17 g (9.86 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-hydroxyphenyl)ethyl]dihydrofuran-2-(3H)-one in 190 ml of DMF/dioxane, 1:1, are treated, under an N2 atmosphere, with 6.4 g (19.7 mmol) of Cs2CO3 and 2.0 g (9.86 mmol) of 2-methoxyethyl iodide. Since HPLC indicates that unreacted 5(S)-[1(S)-(Boc-amino)-2-(p-hydroxyphenyl)ethyl]dihydrofuran-2-(3H)-one is still present after 18 h at RT, a further 1.2 g of 2-methoxyethyl iodide are added in portions. As soon as HPLC indicates that the reaction is complete, the reaction mixture is poured onto 190 ml of ice-water, and the whole is extracted 3× with methylene chloride. The organic phases are washed with water and saline, dried with Na2SO4 and evaporated. Stirring up the residue with hexane in an ultrasonication bath affords the title compound: TLC Rf (D)=0.08; FAB-MS (M+H)+ =380.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-hydroxyphenyl)ethyl]dihydrofuran-2-(3H)-one | 9.86 mmol, 3.17 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)[C@@H]1CCC(O1)=O | C17H23NO5
reactant | Cs2CO3 | 19.7 mmol, 6.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-methoxyethyl iodide | 9.86 mmol, 2.0 g | COCCI | C3H7IO
reactant | 2-methoxyethyl iodide | 1.2 g | COCCI | C3H7IO
solvent | DMF dioxane | 190 ml | CN(C)C=O.O1CCOCC1
product | 5(S)-[1(S)-(Boc-Amino)-2-[p-(2-methoxyethoxy)phenyl]ethyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCCOC)[C@@H]1CCC(O1)=O | C20H29NO6
